US07196080B2
Methyl 3-oxobutyrate was added to an acetic anhydride solution of 6-chloroquinoline 1-oxide, followed by 30 minutes of stirring at an oil bath temperature of 40° C. Thus obtained compound was added to 10% hydrochloric acid and the mixture was reacted at room temperature to obtain methyl (6-chloroquinolin-2-yl)acetate. The compound was further treated in a similar manner to Reference Example 11, Example 22 and Example 4, successively, to obtain an objective compound.

reactant | Methyl 3-oxobutyrate | O=C(CC(=O)OC)C | C5H8O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-chloroquinoline 1-oxide | ClC=1C=C2C=CC=[N+](C2=CC1)[O-] | C9H6ClNO
reactant | hydrochloric acid | Cl | ClH
product | methyl (6-chloroquinolin-2-yl)acetate | ClC=1C=C2C=CC(=NC2=CC1)CC(=O)OC | C12H10ClNO2
